US05585378
Anhydrous potassium carbonate (2.44 g) was added to a solution of 5,6-dimethoxy-1H-indole-2,3-dione (1.2 g) in dry DMF (5 ml). 2-Bromo-1-chloroethane (4.1 g) was added and the mixture was heated at 70° C. for 2 hours. The mixture was evaporated to dryness under reduced pressure and the residue was purified by flash chromatography on silica gel. The 1-(2-chloroethyl)-5,6-dimethoxy-1H-indole-2,3-dione thus obtained was dissolved in dry DMF (5 ml) and anhydrous potassium carbonate (2.44 g), potassium iodide (100 mg) and 1-(phenylmethyl)piperazine (3.06 g) were added. The mixture was stirred and heated at 70° C. for 2 hours and then evaporated to dryness under reduced pressure. The residue was purified by chromatography to yield a red oil which on treatment with ethanolic HCl afforded 5,6-dimethoxy-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride (33%), m.p. 205°-207° C. (dec.).

reactant | potassium carbonate | 2.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5,6-dimethoxy-1H-indole-2,3-dione | 1.2 g | COC=1C=C2C(C(NC2=CC1OC)=O)=O | C10H9NO4
reactant | 2-Bromo-1-chloroethane | 4.1 g | BrCCCl | C2H4BrCl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloroethyl)-5,6-dimethoxy-1H-indole-2,3-dione | ClCCN1C(C(C2=CC(=C(C=C12)OC)OC)=O)=O | C12H12ClNO4
